US08222281B2
(35A) 4-[(3,4-Dichlorobenzyl)oxy]-2-fluorobenzo nitrile
2-Fluoro-4-hydroxybenzonitrile (350 mg, 2.55 mmol) and 3,4-dichlorobenzyl alcohol (542 mg, 3.06 mmol) were dissolved in tetrahydrofuran (7.0 mL), and triphenylphosphine (803 mg, 3.06 mmol) and a 40% diethyl azodicarboxylate toluene solution (1.40 mL, 3.06 mmol) were added thereto at room temperature, and then, the resulting mixture was stirred under a nitrogen atmosphere at 50° C. for 5 hours. After the reaction solution was cooled to room temperature, the solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 65:35 (v/v)), whereby the objective title compound was obtained as a white solid (676 mg, yield: 89%).

reactant | 2-Fluoro-4-hydroxybenzonitrile | 2.55 mmol, 350 mg | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 3,4-dichlorobenzyl alcohol | 3.06 mmol, 542 mg | ClC=1C=C(CO)C=CC1Cl | C7H6Cl2O
reactant | triphenylphosphine | 3.06 mmol, 803 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 3.06 mmol, 1.40 mL | C1(=CC=CC=C1)C.N(=NC(=O)OCC)C(=O)OCC
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
product | 4-[(3,4-Dichlorobenzyl)oxy]-2-fluorobenzo nitrile | 676 mg, yield: 89% | ClC=1C=C(COC2=CC(=C(C#N)C=C2)F)C=CC1Cl | C14H8Cl2FNO
